US20010046993A1
A mixture of methyl 3-oxo-5-(1,3-thiazole-2-yl)-4-pentenoate (132.0 g) and palladium hydroxide, 20 wt % on carbon (13 g) in MeOH (2600 ml) was stirred under hydrogen atmosphere by balloon for 4 hours. Catalyst was removed by filtration and the filtrate evaporated to give 130.0 g of methyl 3-oxo-5-(1,3-thiazole-2-yl)pentanoate as a brown liquid.

reactant | methyl 3-oxo-5-(1,3-thiazole-2-yl)-4-pentenoate | 132.0 g | O=C(CC(=O)OC)C=CC=1SC=CN1 | C9H9NO3S
solvent | MeOH | 2600 ml | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | methyl 3-oxo-5-(1,3-thiazole-2-yl)pentanoate | 130.0 g | O=C(CC(=O)OC)CCC=1SC=CN1 | C9H11NO3S
